US05476952
2-(Cyclopent-1-enyl)-3-phenylthio-prop-1-ene:
To a solution of S-[1-phenylthio-2-hydroxy-2-(cyclopent-1-enyl)propyl]-N-methyl-S-phenylsulfoximine (1.05 g, 2.7 mmol) in a mixture of THF (20 mL), H2O (8 mL) and acetic acid (8 mL) is added freshly prepared Al/Hg (1.3 g) in an ice-bath. After stirring at 0° C. for 5 hours, the mixture is filtered through a pad of Celite and the Celite is washed with EtOH (10 mL). The filtrate is concentrated in vacuo to ca. 5 mL. The residue is diluted with H2O (100 mL) and extracted with pentane (40 mL×5). The combined extracts are dried (Na2SO4), and evaporated in vacuo to dryness. The residue is chromatographed over a silica gel column (2×40 cm) using pentane as the eluent. The product is obtained as a syrup, 486 mg (83%). 1H NMR (CDCl3): δ1.73-2.08 (2H, m, CH2 -4), 2.49 (4H, t, J=6.72 Hz, CH2 -3 and -5), 3.78 (2H, s, CH2 --S), 5.01 (2H, d, J=6.86 Hz, CH2 =), 5.90 (1H, brs, CH=), 7.11-7.53 (5H, m, pH).

reactant | S-[1-phenylthio-2-hydroxy-2-(cyclopent-1-enyl)propyl]-N-methyl-S-phenylsulfoximine | 2.7 mmol, 1.05 g | C1(=CC=CC=C1)SC(C(C)(C1=CCCC1)O)S(=O)(=NC)C1=CC=CC=C1 | C21H25NO2S2
reactant | H2O | 8 mL | O | H2O
reactant | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(Cyclopent-1-enyl)-3-phenylthio-prop-1-ene | C1(=CCCC1)C(=C)CSC1=CC=CC=C1 | C14H16S
